US06281363B1
2(R)-[1(S)-(Hydroxycarbamoyl)-4-phenylbutyl]-4-methyl-N-(6,8-dioxo-5,7-diazaspiro[3,4]oct-7-yl)valeramide
The 2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenylbutyl]-4-methyl-N-(6,8-dioxo-5,7-diazaspiro[3.4]oct-7-yl)valeramide used as the starting material was prepared in a manner analogous to that described in Example 7, parts (ii) and (iii) starting from 2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenylbutyl]-4-methylvalerohydrazide and ethyl 1-isocyanato-1-cyclobutane carboxylate.

reactant | 2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenylbutyl]-4-methyl-N-(6,8-dioxo-5,7-diazaspiro[3.4]oct-7-yl)valeramide | C(C1=CC=CC=C1)ONC(=O)[C@@H](CCCC1=CC=CC=C1)[C@H](C(=O)NN1C(NC2(CCC2)C1=O)=O)CC(C)C | C30H38N4O5
reactant | 2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenylbutyl]-4-methylvalerohydrazide | C(C)(C)(C)OC(=O)[C@@H](CCCC1=CC=CC=C1)[C@H](C(=O)NN)CC(C)C | C21H34N2O3
reactant | ethyl 1-isocyanato-1-cyclobutane carboxylate | N(=C=O)C1(CCC1)C(=O)OCC | C8H11NO3
product | 2(R)-[1(S)-(Hydroxycarbamoyl)-4-phenylbutyl]-4-methyl-N-(6,8-dioxo-5,7-diazaspiro[3,4]oct-7-yl)valeramide | ONC(=O)[C@@H](CCCC1=CC=CC=C1)[C@H](C(=O)NN1C(NC2(CCC2)C1=O)=O)CC(C)C | C23H32N4O5
